US07867629B2
Dissolving 5.0 g (29 mmol) of 2-amino-5-bromopyridine, 3.6 g (30 mmol) of phenylboronic acid and 0.67 g of tetrakis (triphenylphosphine) palladium into 90 milliliter of 1,2-dimethoxyethane, adding 45 milliliter of 2.0M sodium carbonate aqueous solution, the resultant suspension was refluxed under heating for 6 hours. After completion of the reaction, the resultant solution was further dissolved into ethyl acetate, filtering the solution, washing with water, dried with the use of sodium sulfate. Removing the solvent by distillation, 4.0 g of crude 5-phenyl-2-amino-pyridine was obtained.

reactant | 2-amino-5-bromopyridine | 29 mmol, 5.0 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | phenylboronic acid | 30 mmol, 3.6 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 1,2-dimethoxyethane | 90 milliliter | COCCOC | C4H10O2
reactant | sodium carbonate | 2.0M, 45 milliliter | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis (triphenylphosphine) palladium | 0.67 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-phenyl-2-amino-pyridine | 4.0 g | C1(=CC=CC=C1)C=1C=CC(=NC1)N | C11H10N2
